US05958942
ii) Synthesis of 3-methyl-2-[4-(trifluoromethanesulfonamido)butan-1-ylthio]-1,4,7b-triazacyclopent[cd]indene-hydrochloride
To a suspension of 873 mg (2.22 mmol) of 3-methyl-2-[4-(trifluoromethanesulfonamido)butan-1-ylthio]-1,4,7b-triazacyclopent[cd]indene in 10 ml of methanol was added 0.23 ml of conc. HCl. The solvent was then distilled off. The residue was recrystallized from ethanol-ether to give 762 mg of the desired compound (79.9%, colorless crystals), m.p.129.0-131.0° C.

reactant | 3-methyl-2-[4-(trifluoromethanesulfonamido)butan-1-ylthio]-1,4,7b-triazacyclopent[cd]indene | 2.22 mmol, 873 mg | CC=1N=C2N3C1C(=NC3=CC=C2)SCCCCNS(=O)(=O)C(F)(F)F | C14H15F3N4O2S2
reactant | HCl | 0.23 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 3-methyl-2-[4-(trifluoromethanesulfonamido)butan-1-ylthio]-1,4,7b-triazacyclopent[cd]indene-hydrochloride | 762 mg, 79.9% | Cl.CC=1N=C2N3C1C(=NC3=CC=C2)SCCCCNS(=O)(=O)C(F)(F)F | InChI=1S/C14H15F3N4O2S2.ClH/c1-9-12-13(20-11-6-4-5-10(19-9)21(11)12)24-8-3-2-7-18-25(22,23)14(15,16)17;/h4-6,18H,2-3,7-8H2,1H3;1H
